US06878728B1
Hexahydro-4H-furo[2,3-b]pyran-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate
N{(2R,3S)-3-Amino-4-[4-(benzyloxy)phenyl]-2-hydroxybutyl}-N-isobutyl-1,3-benzodioxole-5-sulfonamide was treated with hexahydro-4H-furo[2,3-b]pyran-3-yl 4-nitrophenyl carbonate/diisopropylethylamine/acetonitrile as previously described to afford after silica gel chromatography (dichloromethane/methanol 49:1) the title diastereomers as a solid foams. Diastereomer A: 1H NMR (DMSO-d6): δ 0.76 (3H, d), 0.80 (3H, d), 1.2 (1H, br s), 1.6 (2H, br s), 1.9 (1H, br s), 2.1 (1H, br s), 2.4 (1H, br s), 2.75 (1H, dd), 2.8-3.0 (3H, m), 3.2-3.3 (3H, m), 3.4-3.6 (3H, m), 3.7 (1H, d), 4.0 (1H, t), 4.8-4.9 (2H, m), 5.0 (3H, br s), 6.15 (2H, s), 6.8 (2H, d), 7.0-7.2 (4H, m), 7.21-7.42 (7H, m); MS: 719 (M+23) Diastereomer B: 1H NMR (DMSO-d6): δ 0.76 (3H, d), 0.82 (3H, d), 1.0 (1H, br s), 1.3 (1H, br s), 1.5 (1H, br s), 1.95 (2H, br s), 2.4 (1H, t), 2.7 (2H, td), 2.9 (1H, d), 2.97 (1H, dd), 3.2-3.3 (3H, m), 3.5 (1H, br s), 3.55 (1H, br s), 3.64 (2H, br s), 4.0 (1H, dd), 4.9 (1H, s), 4.95-5.05 (4H, m), 6.15 (2H, s), 6.8 (2H, d), 7.0-7.2 (4H, m), 7.22 (1H, s), 7.25-7.40 (6H, m); MS: 719 (M+23)

reactant | N{(2R,3S)-3-Amino-4-[4-(benzyloxy)phenyl]-2-hydroxybutyl}-N-isobutyl-1,3-benzodioxole-5-sulfonamide | N[C@H]([C@@H](CN(S(=O)(=O)C1=CC2=C(OCO2)C=C1)CC(C)C)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H34N2O6S
reactant | hexahydro-4H-furo[2,3-b]pyran-3-yl 4-nitrophenyl carbonate diisopropylethylamine acetonitrile | C(OC1COC2OCCCC21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O.C(C)(C)N(CC)C(C)C.C(C)#N
solvent | dichloromethane methanol | ClCCl.CO
product | Hexahydro-4H-furo[2,3-b]pyran-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCC2=CC=CC=C2)NC(OC2COC1OCCCC12)=O)O)CC(C)C | C36H44N2O10S
